US04863504
2. Preparation of (E)-2-[1-(3-chloro-2-propenyloxyimino)propyl]5-(1-methyl-1H-pyrazol-4-yl)cyclohexane-1,3-dione (Compound No. 1)
To 200 ml of an ethanolic solution of 20.0 g (81 mmols) of 5-(1-methyl-1H-pyrazol-4-yl)-2-propionylcyclohexane-1,3-dione was added 210 ml (84 mmols) of 0.4 mol ethanolic solution of (E)-3-chloro-2-propenyloxyamine. The mixture was reacted for 8 hours with stirring. After completion of the reaction, the reaction mixture was concentrated under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate) to give 12.5 g of the product.

reactant | 5-(1-methyl-1H-pyrazol-4-yl)-2-propionylcyclohexane-1,3-dione | 81 mmols, 20.0 g | CN1N=CC(=C1)C1CC(C(C(C1)=O)C(CC)=O)=O | C13H16N2O3
reactant | (E)-3-chloro-2-propenyloxyamine | Cl/C=C/CON | C3H6ClNO
product | (E)-2-[1-(3-chloro-2-propenyloxyimino)propyl]5-(1-methyl-1H-pyrazol-4-yl)cyclohexane-1,3-dione | 12.5 g | ClC=CCO\N=C(/CC)\C1C(CC(CC1=O)C=1C=NN(C1)C)=O | C16H20ClN3O3
